US09290476B2
N-Methoxy-N-methyl-6-(trifluoromethyl)nicotinamide
To a 1 L 3-neck flask equipped with an overhead stirrer, Claisen adaptor, nitrogen bubbler, 125 mL addition funnel, and thermocouple was added 6-(trifluoromethyl)nicotinoyl chloride (49.3 g, 235.2 mmol, Intermediate 36: step a), dichloromethane (493 mL), and N,O-dimethylhydroxylamine hydrochloride (25.63 g, 258.8 mmol). After the mixture was cooled to 7° C., diisopropylethylamine (90.263 mL, 517.6 mmol) was added such that the addition temperature did not exceed 16° C. After the addition, the reaction was allowed to warm to room temperature. The reaction was then transferred to a separatory funnel and the organic layer was washed with saturated aqueous NaHCO3 (2×100 mL) followed by water (100 mL) and then dried over sodium sulfate, then filtered. Solvent removal afforded the title compound as a brownish oil.

reactant | 6-(trifluoromethyl)nicotinoyl chloride | FC(C1=NC=C(C(=O)Cl)C=C1)(F)F | C7H3ClF3NO
reactant | N,O-dimethylhydroxylamine hydrochloride | 258.8 mmol, 25.63 g | Cl.CNOC
reactant | diisopropylethylamine | 517.6 mmol, 90.263 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 493 mL | ClCCl | CH2Cl2
product | N-Methoxy-N-methyl-6-(trifluoromethyl)nicotinamide | CON(C(C1=CN=C(C=C1)C(F)(F)F)=O)C | C9H9F3N2O2
